US09388161B2
A 100-mL round-bottom flask was charged with (S)-tert-butyl 4-(4-(1-acetyl-5-(2-fluorophenoxy)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (370 mg, 0.67 mmol), dichloromethane (10 mL) and trifluoroacetic acid (4 mL). The resulting solution stirred for 2 h at room temperature. The pH value of the solution was adjusted to 8 with saturated aqueous potassium carbonate solution. The resulting mixture was extracted with ethyl acetate. The organic layers were combined, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 5:1, ethyl acetate/petroleum ether) to afford (S)-1-(5-(2-fluorophenoxy)-2-methyl-6-(1-(piperidin-4-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)ethanone (141 mg, 47%) as a white solid. 1H NMR (300 MHz, CD3OD) δ ppm 1.15 (d, J=6.60 Hz, 3H), 1.25-1.45 (m, 1H), 1.75-1.95 (m, 2H), 1.97-2.08 (m, 2H), 2.15-2.35 (m, 5H), 2.65-2.89 (m, 3H), 3.09-3.20 (m, 2H), 4.15-4.29 (m, 1H), 4.65-4.85 (m, 1H), 6.35-6.48 (m, 1H), 6.85-6.98 (m, 2H), 7.13-7.22 (m, 1H), 7.27-7.42 (m, 1H), 7.61 (d, J=8.40 Hz, 1H), 7.81 (s, 1H), 7.99 (s, 1H). MS (ESI, pos. ion) m/z 449 [M+H]+.

reactant | (S)-tert-butyl 4-(4-(1-acetyl-5-(2-fluorophenoxy)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.67 mmol, 370 mg | C(C)(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)OC1=C(C=CC=C1)F)C | C31H37FN4O4
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (S)-1-(5-(2-fluorophenoxy)-2-methyl-6-(1-(piperidin-4-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)ethanone | 141 mg, 47% | FC1=C(OC2=C3CC[C@@H](N(C3=CC=C2C=2C=NN(C2)C2CCNCC2)C(C)=O)C)C=CC=C1 | C26H29FN4O2
